US05972975
A stirred solution of 3.0 g (18 mmol) 2-benzylpyridine and 1.65 mL of 30% aqueous hydrogen peroxide in 5.0 mL of acetic acid was heated at 100° C. for 3 hr (S. Hibino and E. Sugino, J. Heterocycl Chem., 1990, 27, 175). After cooling to room temperature, the reaction was diluted with 30 mL ethyl acetate and neutralized with sodium carbonate. The sodium acetate was separated by filtration and the filtrate was dried (sodium carbonate) and concentrated to give a yellow oil. Flash column chromatography on 125 g of silica gel using 7 of L 20% acetone/ethyl acetate furnished 2,58 g (79% yield) of 2-benzylpyridine N-oxide as an amber syrup.

reactant | 2-benzylpyridine | 18 mmol, 3.0 g | C(C1=CC=CC=C1)C1=NC=CC=C1 | C12H11N
reactant | hydrogen peroxide | 1.65 mL | OO | H2O2
reactant | acetone ethyl acetate | CC(=O)C.C(C)(=O)OCC
solvent | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-benzylpyridine N-oxide | 2,58 g, 79% yield | C(C1=CC=CC=C1)C1=[N+](C=CC=C1)[O-] | C12H11NO
